US08466293B2
13.7 g (0.135 mol) of 2,2-difluoro-1-chloroethane, 10 g (0.067 mol) of 1-(6-chloropyridin-3-yl)methanamine and 8.2 g of triethylamine are initially charged with 31 g of N-methylpyrrolidone. In addition, 4 g (0.033 mol) of potassium bromide are added. The mixture is heated to 120° C. under autogenous pressure in an autoclave for 16 hours and then cooled again to 80° C. The N-methylpyrrolidone is distilled off at 80° C. under reduced pressure and the reaction mixture is poured onto 20 ml of 32% hydrochloric acid. The mixture is concentrated to dryness under reduced pressure and then adjusted to pH 12 with 10 ml of 45% NaOH. The mixture is extracted three times with 30 ml of toluene and the organic phases are distilled under reduced pressure. This gives 9.8 g of N-[(6-chloropyridin-3-yl)methyl]-2,2-difluoroethanamine (corresponds to 71% yield).

reactant | 2,2-difluoro-1-chloroethane | 0.135 mol, 13.7 g | FC(CCl)F | C2H3ClF2
reactant | 1-(6-chloropyridin-3-yl)methanamine | 0.067 mol, 10 g | ClC1=CC=C(C=N1)CN | C6H7ClN2
reactant | triethylamine | 8.2 g | C(C)N(CC)CC | C6H15N
reactant | potassium bromide | 0.033 mol, 4 g | [Br-].[K+]
solvent | N-methylpyrrolidone | 31 g | CN1C(CCC1)=O | C5H9NO
product | N-[(6-chloropyridin-3-yl)methyl]-2,2-difluoroethanamine | 9.8 g, 71% yield | ClC1=CC=C(C=N1)CNCC(F)F | C8H9ClF2N2
